US07514452B2
A mixture of the compound of Reference Example 1 (2.20 g), 2-benzyloxyphenylboronic acid (3.40 g), tetrakis(triphenylphosphine)palladium (1.20 g) and cesium carbonate (4.90 g) in a mixed solvent of THF (30 ml) and water (15 ml) were heated at reflux overnight under an argon atmosphere. After cooling, the reaction solution was diluted with ethyl acetate, and the organic layer was dried over MgSO4. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/20), thereby giving 3.40 g of ethyl 3-(2-benzyloxyphenyl)-2-furancarboxylate.

reactant | 2-benzyloxyphenylboronic acid | 3.40 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)B(O)O | C13H13BO3
reactant | cesium carbonate | 4.90 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | water | 15 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-(2-benzyloxyphenyl)-2-furancarboxylate | 3.40 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=C(OC=C1)C(=O)OCC | C20H18O4
